US05117057
Preparation of N'-t-butyl-N'-benzoylcarbonyl-N-benzoylhydrazine
N'-t-butyl-N'-benzoylhydrazine (1 g), benzoyl formic acid (0.7 g) and methanesulfonyl chloride (0.7 g) were stirred in toluene (30 ml) and saturated sodium bicarbonate (10 ml) at approximately 5° C. Triethylamine was added slowly, dropwise to the reaction mixture and stirred 1 hour at room temperature. After stirring for 1 hour, the reaction mixture was diluted with toluene (25 ml) and washed with water several times. The organic layers were dried over magnesium sulfate, filtered and the toluene rotavapped off to afford a white solid. After column chromatography, the product was obtained as a white solid in approximately 70% yield.

reactant | N'-t-butyl-N'-benzoylhydrazine | 1 g | C(C)(C)(C)N(N)C(C1=CC=CC=C1)=O | C11H16N2O
reactant | benzoyl formic acid | 0.7 g | C(C1=CC=CC=C1)(=O)C(=O)O | C8H6O3
reactant | methanesulfonyl chloride | 0.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | Triethylamine | C(C)N(CC)CC | C6H15N
product | N'-t-butyl-N'-benzoylcarbonyl-N-benzoylhydrazine | approximately 70% yield | C(C)(C)(C)N(NC(C1=CC=CC=C1)=O)C(=O)C(C1=CC=CC=C1)=O | C19H20N2O3
